US09255100B2
tert-butyl (6-bromoimidazo[1,2-b]pyridazin-8-yl)(3,3,3-trifluoropropyl)carbamate
To a solution of 1.88 g (6.08 mmol) 6-bromo-N-(3,3,3-trifluoropropyl)imidazo[1,2-b]pyridazin-8-amine which was prepared according to intermediate example 453e in 7.0 mL tetrahydrofuran were added 2.92 g di-tert-butyl dicarbonate, 74.3 mg N,N-dimethylpyridin-4-amine and the mixture was heated for 2 hours at 55° C. Ethyl acetate was added and the organic phase was washed with saturated sodium hydrogencarbonate solution and dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 2.15 g (82%) of the title compound.

reactant | 6-bromo-N-(3,3,3-trifluoropropyl)imidazo[1,2-b]pyridazin-8-amine | 6.08 mmol, 1.88 g | BrC=1C=C(C=2N(N1)C=CN2)NCCC(F)(F)F | C9H8BrF3N4
reactant | di-tert-butyl dicarbonate | 2.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylpyridin-4-amine | 74.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (6-bromoimidazo[1,2-b]pyridazin-8-yl)(3,3,3-trifluoropropyl)carbamate | 2.15 g, 82% | BrC=1C=C(C=2N(N1)C=CN2)N(C(OC(C)(C)C)=O)CCC(F)(F)F | C14H16BrF3N4O2
